US04018773
trans-1,2,3,4-Tetrahydro-8-methoxy-3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-naphthalenol
A solution of 2.0 g of trans-5,6,7,8-tetrahydro-6-[4-(2-methoxyphenyl)-1-piperazinyl]-1,7-naphthalenediol in methanol is treated with about 2 equivalents of freshly prepared diazomethane. The solution is stored at 0° C for 48 hours. The solvent is removed in vacuo. The residue is dissolved in ethyl acetate, washed with dilute sodium hydroxide solution and dried. The solvent is removed in vacuo leaving an oil which crystallizes on trituration with a small amount of ether. This is washed with isopropyl ether and recrystallized from ether to give 1.7 g of the title compound, melting point 123°-125° C.

reactant | trans-5,6,7,8-tetrahydro-6-[4-(2-methoxyphenyl)-1-piperazinyl]-1,7-naphthalenediol | 2.0 g | COC1=C(C=CC=C1)N1CCN(CC1)[C@@H]1CC=2C=CC=C(C2C[C@H]1O)O | C21H26N2O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | CO | CH4O
product | trans-1,2,3,4-Tetrahydro-8-methoxy-3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-naphthalenol | 1.7 g | COC=1C=CC=C2C[C@H]([C@@H](CC12)O)N1CCN(CC1)C1=C(C=CC=C1)OC | C22H28N2O3
